US09399646B2
Chromium trioxide (1.2 g, 11.7 mmol) was added to a solution of (4-bromophenyl)(trifluoromethyl)sulfane (1.5 g, 5.83 mmol), concentrated H2SO4 (6 mL), and H2O (10 mL). After stirring at rt for 2 h, the reaction mixture was poured into ice-water and extracted with EtOAc (3×60 mL). The combined organic layers were dried (MgSO4), concentrated, and purified by column chromatography on silica gel (EtOAc/petroleum ether=1:100) to give 960 mg of 1-bromo-4-((trifluoromethyl)sulfonyl)benzene as a white solid. 1H NMR (CDCl3, 400 MHz): δ 7.89 (d, 2H), 7.85-7.81 (m, 2H). 13C NMR (CDCl3, 100 MHz): δ 133.4, 132.8, 132.1, 130.4, 119.7 (q, J=320 Hz).

reactant | (4-bromophenyl)(trifluoromethyl)sulfane | 5.83 mmol, 1.5 g | BrC1=CC=C(C=C1)SC(F)(F)F | C7H4BrF3S
reactant | H2SO4 | 6 mL | OS(=O)(=O)O | H2O4S
reactant | H2O | 10 mL | O | H2O
catalyst | Chromium trioxide | 11.7 mmol, 1.2 g | [O-2].[O-2].[O-2].[Cr+6]
product | 1-bromo-4-((trifluoromethyl)sulfonyl)benzene | 960 mg | BrC1=CC=C(C=C1)S(=O)(=O)C(F)(F)F | C7H4BrF3O2S
